US05889012
4-(2-Hydroxy-1,1,1-trifluoro-2-propyl)phenol
31.3 g (0.106 mol) of 4-(2-hydroxy-1,1,1-trifluoro-2-propyl)phenol benzyl ether were hydrogenated in 380 ml of glacial acetic acid in the presence of 6.3 g of palladium (5% on charcoal) at 50° C. After filtration to remove the catalyst and concentration, 18.9 g (87% of theory) remained of a colorless product.

reactant | 4-(2-hydroxy-1,1,1-trifluoro-2-propyl)phenol benzyl ether | 0.106 mol, 31.3 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(F)(F)F)(C)O | C16H15F3O2
solvent | acetic acid | 380 ml | C(C)(=O)O | C2H4O2
catalyst | palladium | 6.3 g | [Pd] | Pd
product | 4-(2-Hydroxy-1,1,1-trifluoro-2-propyl)phenol | OC(C(F)(F)F)(C)C1=CC=C(C=C1)O | C9H9F3O2
